US05079260
3-(1-Methylfluoren-9-yl)propionyl Chloride
3-(1-Methylfluoren-9-yl)propionic acid (2.5 g, 9.9 mmol) was charged with SOCl2 (20 mL, in excess) at room temperature. The reaction mixture was boiled for 2 hr. Excess of thionyl chloride was removed under reduced pressure. The residual oil was used for the next step without further purification.

reactant | 3-(1-Methylfluoren-9-yl)propionic acid | 9.9 mmol, 2.5 g | CC1=CC=CC=2C3=CC=CC=C3C(C12)CCC(=O)O | C17H16O2
reactant | SOCl2 | 20 mL | O=S(Cl)Cl | Cl2OS
product | 3-(1-Methylfluoren-9-yl)propionyl Chloride | CC1=CC=CC=2C3=CC=CC=C3C(C12)CCC(=O)Cl | C17H15ClO
